2181-12-11 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2181-12-10**] 10:08 AM
 EKG - At [**2181-12-10**] 11:30 AM
 URINE CULTURE - At [**2181-12-10**] 11:39 AM
 EKG - At [**2181-12-10**] 06:12 PM
   -started cipro/flagyl/ceftriaxone
   -peritoneal fluid showed 2750 WBCs, 73% polys
   -got enemas (Fleet and tap water)
   -got kayexalate for hyperkalemia (K 5.5)
   -urine lytes prerenal, although cannot rule out SIADH in setting of
   volume depletion
   -got normal saline for hyponatremia 117->121->117 in setting of
   decreased urine output -> bolused 500 cc NS --> Na 123 at 3 a.m. (up
   from 117 at 10 p.m.) --> shut off IVF to avoid correcting Na too
   rapidly, with plan to restart at 75 cc/hr at 8 a.m. --> Na 125 at 5
   a.m.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-12-10**] 08:30 PM
   Ciprofloxacin - [**2181-12-10**] 09:00 PM
   Metronidazole - [**2181-12-11**] 05:30 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2181-12-10**] 12:55 PM
   Pantoprazole (Protonix) - [**2181-12-10**] 02:05 PM
   Enoxaparin (Lovenox) - [**2181-12-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-12-11**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 95 (91 - 115) bpm
   BP: 111/69(78) {91/50(63) - 112/81(88)} mmHg
   RR: 12 (7 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 65.3 kg
             Total In:
                                                                  2,693 mL
                                                                  1,271 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,523 mL
                                                                  1,211 mL
   Blood products:
   Total out:
                                                                  2,322 mL
                                                                    424 mL
   Urine:
                                                                    522 mL
                                                                    124 mL
   NG:
   Stool:
   300 mL
   Drains:
                                                                  1,500 mL
   Balance:
                                                                    371 mL
                                                                    847 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   GENERAL: chroniciallt ill appearing, cachectic. NAD
   HEENT: Normocephalic, atraumatic. + conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MM quite dry. OP without evidence of thrush. Neck
   Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: slightly distended with pleurex catheter in place in LUQ. BS
   decreased throughout. + TTP in b/l lower quadrant, no perioneal signs.
   EXTREMITIES: 2+ peripheral edema, dopplerable dorsalis pedis b/l SKIN:
   mottled appearance to flanks and lower back with few discrete
   erythematous macules on anterior thighs.
   NEURO: A&Ox3. Appropriate. Limited exam grossly intact. Gait assessment
   deferred
   Labs / Radiology
   303 K/uL
   12.1 g/dL
   113 mg/dL
   1.1 mg/dL
   22 mEq/L
   5.5 mEq/L
   45 mg/dL
   95 mEq/L
   125 mEq/L
   36.9 %
   35.9 K/uL
        [image002.jpg]
                             [**2181-12-10**]  10:35 AM
                             [**2181-12-10**]  04:42 PM
                             [**2181-12-10**]  09:48 PM
                             [**2181-12-11**]  01:59 AM
                             [**2181-12-11**]  05:18 AM
   WBC
   34.8
   35.9
   Hct
   38.9
   36.9
   Plt
   369
   303
   Cr
   1.2
   1.1
   1.2
   1.1
   1.1
   Glucose
   89
   80
   127
   113
   Other labs: Ca++:9.1 mg/dL, Mg++:3.1 mg/dL, PO4:4.5 mg/dL
   MICRO: no growth to date, 4+ polys in peritoneal fluid
   ASCITES: WBC 2750, RBC 1550 73% polys
   IMAGING:  [**12-10**] CXR- no evidence PNA
   [**12-10**]-CT abd/pelvis: new large volume ascites, catheter in place for
   peritoneal drainage, large pancreatic mass liver mets, new areas of
   peritoneal thickening along L-hemi diaphragm, infiltration of
   mesentery, diffuse omental caking suggesting peritoneal carcinomatosis.
   Small bowel thickening d/t peritoneal tumour involvement. Partial
   thrombosis L portal vein
   Assessment and Plan
   67F with stage 4 pancreatic cancer now p/w 4 days of nausea and
   vomiting, inabaility to tolerate po, and fatigue, found to have
   hyponatremia, hyerkalemia, and acute renal insufficiency
   .
   #. Nausea and vomiting - most likely etiology is profound ileus from
   meds, SBP, carcinomatosis, vs incomplete SBO, constipation, massive
   ascites, vs. extrinsic compresison of mass into UGI tract. Pt with
   recent thrush but her complaint does not appear a primary esophageal
   one. Other DDx includes SBP as elevated WBC count in peritoneal fluid
   (73% polys) peritonitis, primary or secondary, esp given recent
   catheter placement and elevated WBC count. Has been deemed an
   unacceptable risk for surgical pallliation.
   -- advance diet to sips, ADAT consider NGT if e/o SBO (not seen on CT
   scan)
   -- symptomatic control with zofran, compazine, ativan
   -- pain control with prn dilaudid and fentanyl patch
   -- f/u micro data; urine and blood cultures
   #. [**Name (NI) 9741**] unclear if peritoneal fluid is infection from SBP or
   from pleurex catheter; at any rate, treatment with IV Ceftriaxone
   should be sufficient to cover the GNRs from SBP and the GPCs from
   catheter-related infection.
   -- increase IV CTX to 2gm daily (as per SBP tx)
   -- d/c cipro and flagyl
   -- f/u pending culture data
   .
   #. Stage IV pancreatic Cancer - has been on palliative chemo with
   recent decision to move towards hospice care as an outpatient.
   -- contact outpatient onc Dr. [**Last Name (STitle) 9717**]/[**Doctor Last Name 2998**]
   -- is well known to palliative care, team, will consult as inpatient
   -- therapeutic drainage of ascites for comfort
   .
   #. Hyperkalemia - s/p calcium, kayexylate, insulin/D50 in ED
   -- trend K [**Hospital1 **]
   -- recheck EKG now
   .
   #. Hyponatremia - likely hypovolemic given n/v, ketonuria, urine SG,
   and ARF. No e/o MS changes. Was 129 on d/c on [**11-29**].
   -- check urine lytes, osms
   -- continue IV NS maintenance
   -- give 500cc IV NS bolus, recheck Na
   -- q6h sodiums, goal to increase 0.5 mEq/hr
   .
   # ARF - Cr. 1.4 from 1.0, likely prerenal
   -- check urine lytes, osms, eos
   -- IVF
   -- trend Cr
   -- renally dose meds
   .
   #. recent thrush - no evidence of this currently
   -- oral nystatin prn
   .
   # constipation -
   -- [**Hospital1 **] standing colace and senna
   -- add daily miralax
   -- add [**Hospital1 **] lactulose
   .
   # h/o PE
   -- renally adjust lovenox dose
   .
   #. rash - unclear etiology, may be related to lidoderm patch recently
   used
   -- monitor for now
   .
   # Hypothyroid
   -- continue levothyroxine
   .
   # Depression - continue citalopram
   .  .
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2181-12-10**] 10:08 AM
   20 Gauge - [**2181-12-10**] 10:10 AM
   Prophylaxis:
   DVT:  lovenox
   Stress ulcer:  pantoprazole
   VAP:  N/A
   Comments:
   Communication:  2 daughters, husband [**Name (NI) **] (# in room)
   Code status:  DNR/DNI
   Disposition: [**Hospital Unit Name 4**]

2181-12-11 10:48:00 Physician Attending Progress Note
Chief Complaint: Hyponatremia, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overall states to feel improved.  "Feel like a new person."
   Receiving iv NS.
   Poor tolerance to POs --> nausea and vomitting.  No increased abd pain.
   Skin rash improved.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-12-10**] 08:30 PM
   Metronidazole - [**2181-12-11**] 05:30 AM
   Ciprofloxacin - [**2181-12-11**] 07:37 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2181-12-10**] 12:55 PM
   Pantoprazole (Protonix) - [**2181-12-10**] 02:05 PM
   Enoxaparin (Lovenox) - [**2181-12-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-12-11**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 100 (91 - 115) bpm
   BP: 96/69(75) {89/50(63) - 112/81(88)} mmHg
   RR: 11 (7 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.3 kg (admission): 65.3 kg
             Total In:
                                                                  2,693 mL
                                                                  1,643 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,523 mL
                                                                  1,583 mL
   Blood products:
   Total out:
                                                                  2,322 mL
                                                                    516 mL
   Urine:
                                                                    522 mL
                                                                    216 mL
   NG:
   Stool:
   300 mL
   Drains:
                                                                  1,500 mL
   Balance:
                                                                    371 mL
                                                                  1,127 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese, Fluid wave
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.1 g/dL
   303 K/uL
   113 mg/dL
   1.1 mg/dL
   22 mEq/L
   5.5 mEq/L
   45 mg/dL
   95 mEq/L
   125 mEq/L
   36.9 %
   35.9 K/uL
        [image002.jpg]
                             [**2181-12-10**]  10:35 AM
                             [**2181-12-10**]  04:42 PM
                             [**2181-12-10**]  09:48 PM
                             [**2181-12-11**]  01:59 AM
                             [**2181-12-11**]  05:18 AM
   WBC
   34.8
   35.9
   Hct
   38.9
   36.9
   Plt
   369
   303
   Cr
   1.2
   1.1
   1.2
   1.1
   1.1
   Glucose
   89
   80
   127
   113
   Other labs: Ca++:9.1 mg/dL, Mg++:3.1 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   67 yof advanced stage IV pancreatic cancer now with nausea and
   vomiting, poor PO tolerance, and fatigue, found to have hyponatremia,
   hyerkalemia, and ARF.
   NAUSEA VOMITTING
 likely multifactorial, including medications
   (narcotics, antibiotics), hyponatremia, and possible abdominal
   infection (recent instrumentation).  Evaluation in progress.  Desire to
   feed (to minimize risk for bacterial tranlocation).  Hopefully nausea
   will improve as serum Na normalizes and SBP improves.
   HYPONATREMIA
 Improved.  likely dehydration, and net sodium loss.
   Possible SIADH, but good response to NS.  Continue NS, monitor Na, and
   if continues to correct, may be able to transfer to medicine floor.
   ABD PAIN
 Suspect SBP on back ground of progressive intraperitoneal
   carcinomatosis.  Await evaluation of ascites fluid to assess for SBP.
   Review and compare current CT with recent CT..
   SBP
 possibly related to abdominal drain placement.  Continue
   empirical antimicrobials, adjust according to culture results.
   Consider drainage on regular regimen.  Monitor.
   LEFT FOOT ERYTHEMA -- Intiail concern for cellulitis, but much
   improved.
   PANCREATIC CA -- Stage IV,  s/p Palliative chemoRx, now planning
   transition to hospice care.
   HYPERKALEMIA
 likely due to ARF.   s/p calcium, kayexylate,
   insulin/D50 in ED
   ACUTE RENAL FAILURE
 likely hypovolemia --> improved with hydration.
   Monitor BUN, creatinine while resussitating with fluids.
   NUTRITIONAL SUPPORT
 encourage PO as tolerated.
   h/o PE -- Adjust lovenox dose for renal failure.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2181-12-10**] 10:08 AM
   20 Gauge - [**2181-12-10**] 10:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2181-12-12 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2181-12-11**]
   -cipro/flagyl d/c'd
   -CTX changed to 2g IV q24h for tx SBP
   (unclear whether we are tx [**Name (NI) 7260**] from SBP or GPCs from pleurex catheter,
   but CTX has good coverage for both)
   - another bolus 500cc NS and check Na
   - could not be called out to floor d/t hypotension (SBP 80s), and NA
   117. repeat Na was 124, then 118.... ????
   -Urine Lytes yesterday PM were Cr 11, Na 144, Osm 344, fluid restiction
   ordered
   - no new growth on peritoneal fluid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2181-12-11**] 05:30 AM
   Ciprofloxacin - [**2181-12-11**] 07:37 AM
   Ceftriaxone - [**2181-12-11**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-12-11**] 01:20 PM
   Hydromorphone (Dilaudid) - [**2181-12-11**] 01:30 PM
   Enoxaparin (Lovenox) - [**2181-12-12**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-12-12**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 102 (88 - 108) bpm
   BP: 117/77(86) {82/57(63) - 117/77(86)} mmHg
   RR: 20 (7 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.3 kg (admission): 65.3 kg
             Total In:
                                                                  3,196 mL
                                                                    680 mL
   PO:
                                                                    960 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,236 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                    796 mL
                                                                    120 mL
   Urine:
                                                                    496 mL
                                                                    120 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  2,400 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   GENERAL: chroniciallt ill appearing, cachectic. NAD
   HEENT: Normocephalic, atraumatic. + conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MM quite dry. OP without evidence of thrush. Neck
   Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: slightly distended with pleurex catheter in place in LUQ. BS
   decreased throughout. + TTP in b/l lower quadrant, no perioneal signs.
   EXTREMITIES: 2+ peripheral edema, dopplerable dorsalis pedis b/l SKIN:
   mottled appearance to flanks and lower back with few discrete
   erythematous macules on anterior thighs.
   NEURO: A&Ox3. Appropriate. Limited exam grossly intact. Gait assessment
   deferred
   Labs / Radiology
   286 K/uL
   11.8 g/dL
   108 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.8 mEq/L
   37 mg/dL
   94 mEq/L
   118 mEq/L
   36.5 %
   28.7 K/uL
        [image002.jpg]
                             [**2181-12-10**]  10:35 AM
                             [**2181-12-10**]  04:42 PM
                             [**2181-12-10**]  09:48 PM
                             [**2181-12-11**]  01:59 AM
                             [**2181-12-11**]  05:18 AM
                             [**2181-12-11**]  11:50 AM
                             [**2181-12-11**]  02:06 PM
                             [**2181-12-12**]  04:49 AM
   WBC
   34.8
   35.9
   28.7
   Hct
   38.9
   36.9
   36.5
   Plt
   [**Telephone/Fax (3) 9773**]
   Cr
   1.2
   1.1
   1.2
   1.1
   1.1
   0.9
   1.0
   0.9
   Glucose
   89
   80
   127
   113
   93
   170
   108
   Other labs: Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   67F with stage 4 pancreatic cancer now p/w 4 days of nausea and
   vomiting, inabaility to tolerate po, and fatigue, found to have
   hyponatremia, hyerkalemia, and acute renal insufficiency
   .
   #. Nausea and vomiting - most likely etiology is profound ileus from
   meds, SBP, carcinomatosis, vs incomplete SBO, constipation, massive
   ascites, vs. extrinsic compresison of mass into UGI tract. Pt with
   recent thrush but her complaint does not appear a primary esophageal
   one. Other DDx includes SBP as elevated WBC count in peritoneal fluid
   (73% polys) peritonitis, primary or secondary, esp given recent
   catheter placement and elevated WBC count. Has been deemed an
   unacceptable risk for surgical pallliation.
   -- advance diet to sips, ADAT consider NGT if e/o SBO (not seen on CT
   scan)
   -- symptomatic control with zofran, compazine, ativan
   -- pain control with prn dilaudid and fentanyl patch
   -- f/u micro data; urine and blood cultures
   #. [**Name (NI) 9741**] unclear if peritoneal fluid is infection from SBP or
   from pleurex catheter; at any rate, treatment with IV Ceftriaxone
   should be sufficient to cover the [**Name (NI) 7260**] from SBP and the GPCs from
   catheter-related infection.
   -- increase IV CTX to 2gm daily (as per SBP tx)
   -- d/c cipro and flagyl
   -- f/u pending culture data
   .
   #. Stage IV pancreatic Cancer - has been on palliative chemo with
   recent decision to move towards hospice care as an outpatient.
   -- contact outpatient onc Dr. [**Last Name (STitle) 9717**]/[**Doctor Last Name 2998**]
   -- is well known to palliative care, team, will consult as inpatient
   -- therapeutic drainage of ascites for comfort
   .
   #. Hyperkalemia - s/p calcium, kayexylate, insulin/D50 in ED
   -- trend K [**Hospital1 **]
   -- recheck EKG now
   .
   #. Hyponatremia - likely hypovolemic given n/v, ketonuria, urine SG,
   and ARF. No e/o MS changes. Was 129 on d/c on [**11-29**].
   -- check urine lytes, osms
   -- continue IV NS maintenance
   -- give 500cc IV NS bolus, recheck Na
   -- q6h sodiums, goal to increase 0.5 mEq/hr
   .
   # ARF - Cr. 1.4 from 1.0, likely prerenal
   -- check urine lytes, osms, eos
   -- IVF
   -- trend Cr
   -- renally dose meds
   .
   #. recent thrush - no evidence of this currently
   -- oral nystatin prn
   .
   # constipation -
   -- [**Hospital1 **] standing colace and senna
   -- add daily miralax
   -- add [**Hospital1 **] lactulose
   .
   # h/o PE
   -- renally adjust lovenox dose
   .
   #. rash - unclear etiology, may be related to lidoderm patch recently
   used
   -- monitor for now
   .
   # Hypothyroid
   -- continue levothyroxine
   .
   # Depression - continue citalopram
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2181-12-10**] 10:08 AM
   20 Gauge - [**2181-12-10**] 10:10 AM
   Prophylaxis:
   DVT:  lovenox
   Stress ulcer:  pantoprazole
   VAP:  N/A
   Comments:
   Communication:  2 daughters, husband [**Name (NI) **] (# in room)
   Code status:  DNR/DNI
   Disposition: [**Hospital Unit Name 4**]

2181-12-12 11:43:00 Physician Attending Progress Note
Chief Complaint: Hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overall continues to feel improved.
   Remained in ICU overnight with persistent hyponatremia --> labs
   consistent with SIADH.
   Remains with poor tolerance of PO meds.
   Abd pain well-controlled.
                                History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2181-12-11**] 05:30 AM
   Ciprofloxacin - [**2181-12-11**] 07:37 AM
   Ceftriaxone - [**2181-12-11**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-12-11**] 01:20 PM
   Enoxaparin (Lovenox) - [**2181-12-12**] 12:15 AM
   Hydromorphone (Dilaudid) - [**2181-12-12**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-12-12**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 102 (88 - 109) bpm
   BP: 101/80(84) {82/57(63) - 117/80(94)} mmHg
   RR: 24 (7 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66 kg (admission): 65.3 kg
             Total In:
                                                                  3,196 mL
                                                                    680 mL
   PO:
                                                                    960 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,236 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                    796 mL
                                                                  2,158 mL
   Urine:
                                                                    496 mL
                                                                    158 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   2,000 mL
   Balance:
                                                                  2,400 mL
                                                                 -1,478 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese, Right sided percutaneous abd drain
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.8 g/dL
   286 K/uL
   108 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.8 mEq/L
   37 mg/dL
   94 mEq/L
   118 mEq/L
   36.5 %
   28.7 K/uL
        [image002.jpg]
                             [**2181-12-10**]  10:35 AM
                             [**2181-12-10**]  04:42 PM
                             [**2181-12-10**]  09:48 PM
                             [**2181-12-11**]  01:59 AM
                             [**2181-12-11**]  05:18 AM
                             [**2181-12-11**]  11:50 AM
                             [**2181-12-11**]  02:06 PM
                             [**2181-12-12**]  04:49 AM
   WBC
   34.8
   35.9
   28.7
   Hct
   38.9
   36.9
   36.5
   Plt
   [**Telephone/Fax (3) 9773**]
   Cr
   1.2
   1.1
   1.2
   1.1
   1.1
   0.9
   1.0
   0.9
   Glucose
   89
   80
   127
   113
   93
   170
   108
   Other labs: Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   67 yof advanced stage IV pancreatic cancer now with nausea and
   vomiting, poor PO tolerance, and fatigue, found to have hyponatremia,
   hyerkalemia, and ARF.
   NAUSEA VOMITTING
 likely multifactorial, including medications
   (narcotics, antibiotics), hyponatremia, and possible abdominal
   infection (recent instrumentation).  Evaluation in progress.  Desire to
   feed (to minimize risk for bacterial tranlocation).  Hopefully nausea
   will improve as serum Na normalizes and SBP improves.
   HYPONATREMIA
 Overall clinically improved, although Na remains low.
   Likely SIADH, wit component of significant dehydration, and net sodium
   loss.  Consider continued net fluid restriction, but may require iv NS
   fluid bolus for low urine output or hypotension.  Consider Renal
   consultation to assist in fluid management.  Monitor Na
 will likely
   tolerate low Na.
   ABD PAIN
 Suspect SBP on back ground of progressive intraperitoneal
   carcinomatosis.  Await evaluation of ascites fluid to assess for SBP.
   Review and compare current CT with recent CT..
   SBP
 possibly related to abdominal drain placement.  Continue
   empirical antimicrobials, adjust according to culture results.
   Consider drainage on regular regimen.  Monitor.
   LEFT FOOT ERYTHEMA -- Much improved, with variable exam ?related to
   malignancy.
   PANCREATIC CA -- Stage IV,  s/p Palliative chemoRx, now planning
   transition to hospice care.
   HYPERKALEMIA
 likely due to ARF.   s/p calcium, kayexylate,
   insulin/D50 in ED
   ACUTE RENAL FAILURE
 likely hypovolemia --> improved with hydration.
   Monitor BUN, creatinine while resussitating with fluids.
   NUTRITIONAL SUPPORT
 encourage PO as tolerated.
   h/o PE -- Adjust lovenox dose for renal failure.
   Need to further define goals of future care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2181-12-10**] 10:08 AM
   20 Gauge - [**2181-12-10**] 10:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Discussed plans with patient, husband and
   daughter.
   [**Name (NI) 156**] status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes